US08183293B2
4-bromo-2-chloro-5-fluorophenol (C.1).
2-Chloro-5-fluorophenol (24.1 g, 165 mmol) was dissolved in anhydrous chloroform (200 mL), heated to 75° C. and treated with a solution of bromine (8.5 mL, 165 mmol) in anhydrous chloroform (40 mL) added dropwise over 5 minutes. After 3 hours the reaction was treated with additional bromine (1.7 mL, 33 mmol) in anhydrous chloroform (15 mL) and stirred at 75° C. After 2 hours, the reaction was cooled to room temperature and treated with dichloromethane (300 mL) and Na2S2O3 (100 mL, saturated aqueous solution). After mixing vigorously, the layers were separated and the organic layer was dried over MgSO4, filtered and concentrated under reduced pressure. The resulting yellow liquid was purified by vacuum distillation. Compound C.1 (22.3 g, 60%) was obtained as a colorless liquid. LC-MS ESI (neg.) m/e: 224.9 (M−H). 1H NMR (400 MHz) (CDCl3) □ 7.51 (d, J=6.9 Hz, 1H); 6.85 (d, J=9.2 Hz, 1H); 5.69 (s, 1H).

reactant | 2-Chloro-5-fluorophenol | 165 mmol, 24.1 g | ClC1=C(C=C(C=C1)F)O | C6H4ClFO
reactant | bromine | 165 mmol, 8.5 mL | BrBr | Br2
reactant | bromine | 33 mmol, 1.7 mL | BrBr | Br2
reactant | dichloromethane | 300 mL | ClCCl | CH2Cl2
reactant | Na2S2O3 | 100 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-2-chloro-5-fluorophenol | BrC1=CC(=C(C=C1F)O)Cl | C6H3BrClFO
